US07915250B2
3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (1.20 g, 3.05 mmol), prepared using procedures similar to those described in U.S. Pat. No. 7,019,033, 4-(dimethylamino)pyridine (1.20 g, 9.86 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (701 mg, 3.66 mmol) were dissolved in DMF (10 mL). The mixture was stirred at ambient for 5 minutes and then 3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide hydrochloride (3.05 mmol) in DMF (5 mL) was added and the mixture was stirred for 15 h. The mixture was partitioned between ethyl acetate and 5% lithium chloride. The organic portion was washed with 20% citric acid, saturated sodium bicarbonate and brine, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 60-85% ethyl acetate in hexanes) and then reverse phase HPLC gave 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide (150 mg, 0.282 mmol, 9% yield): 1H NMR (400 MHz, d6-DMSO): 8.64 (br s, 1H), 8.13 (t, 1H), 7.58 (dd, 1H), 7.38 (dd, 1H), 7.34-7.28 (m, 1H), 7.21-7.12 (m, 1H), 6.84 (br s, 1H), 6.72 (ddd, 1H), 5.83-5.72 (m, 1H), 5.10-4.99 (m, 2H), 4.38 (d, 1H), 4.20 (d, 1H), 4.02 (d, 1H), 3.86 (d, 1H), 3.73-3.68 (m, 2H); MS (EI) for C20H17F3IN3O3: 532 (MH+).

reactant | 3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 3.05 mmol, 1.20 g | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.66 mmol, 701 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide hydrochloride | 3.05 mmol | Cl.OC1(CNC1)C(=O)NCC=C
catalyst | 4-(dimethylamino)pyridine | 9.86 mmol, 1.20 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide | 0.282 mmol, 150 mg, 9% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(C(=O)NCC=C)O)NC1=C(C=C(C=C1)I)F | C20H17F3IN3O3
